Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Lipitor / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Chest discomfort
 
Major Surgical or Invasive Procedure:
___ Coronary Artery Bypass Grafting x3

 
History of Present Illness:
___ year old male with a past medical history of dyslipidemia 
(intolerant of high dose statins) and CAD s/p RCA stenting in 
___ who has had exertional angina over the past several months. 
Exercise only stress test was positive for inferolateral ECG 
changes. He was referred for coronary angiogram
which revealed two-vessel coronary artery disease (99% mid LAD, 
70% proximal LAD and 50% in stent restenosis of RCA). He was 
admitted for additional workup and treatment.

 
Past Medical History:
Acute pancreatitis ___,
h/o CAD s/p stent to RCA in ___ Cath: 50% RCA 50% LAD 
lesions, patent stent in RCA)
h/o A-fib s/p DCCV ___
HLD
kidney stones

 
Social History:
___
Family History:
Grandfather died from an MI at age ___. 
Father had his first MI at age ___ and died from another MI at 
age ___. He
had CABG at age ___. He also had ___ PAD and carotid artery 
disease
s/p revascularization. A brother had an MI in his ___.
Mother died of ovarian cancer at ___ years old. Two maternal 
aunts with ovarian cancer. Maternal uncle with pancreatic 
cancer.

 
Physical Exam:
Admission:
------------
General: Awake, pleasant male lying in bed, appears to be in no
acute distress 
Neuro: Alert and oriented x3. Pleasant and cooperative. Speech
clear, appropriate and comprehensible. Tongue midline, smile
symmetric. Equal and strong hand grasps and foot pushes. 
HEENT: Neck supple, No JVD noted
CV: RRR, Normal S1/S2, no systolic/diastolic murmur
Lungs:LS Clear anteriorly, non-labored. No use of accessory
muscles noted.
Abdomen: soft, non-tender, Tolerating POs. 
PV: WWP, + pedal pulses, No edema, 
Access sites: Right radial TR band in place soft without 
bleeding
or hematoma. +2 radial pulse. CSM WNL.      
.
Discharge: 
Physical Examination:
General: NAD [x]  
Neurological: A/O x3 [x] Moves all extremities [x]  Follows
commands [x] 
Cardiovascular: RRR [x]  ST
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema   
Left Upper extremity    Warm [x]  Edema  
Right Lower extremity   Warm [x]  Edema  none
Left Lower extremity    Warm [x]  Edema  none
Pulses:
DP             Right:   +    Left:+
___             Right:        Left:
Radial         Right:   +    Left:+
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena []
Lower extremity: Right [x] Left []  CDI [x]

 
Pertinent Results:
Admission:
----------

___ 11:49AM BLOOD WBC-4.3 RBC-4.28* Hgb-13.6* Hct-40.3 
MCV-94 MCH-31.8 MCHC-33.7 RDW-13.1 RDWSD-44.9 Plt ___
___ 11:49AM BLOOD ___
___ 11:49AM BLOOD Glucose-91 UreaN-14 Creat-1.0 Na-140 
K-4.1 Cl-106 HCO3-24 AnGap-10
___ 03:45PM BLOOD ALT-25 AST-26 LD(LDH)-152 AlkPhos-71 
TotBili-0.4
___ 11:49AM BLOOD Calcium-8.9 Phos-2.8 Mg-1.9
___ 11:49AM BLOOD %HbA1c-5.2 eAG-103
___ 07:10AM BLOOD Triglyc-120 HDL-77 CHOL/HD-2.4 LDLcalc-84

___ Transthoracic echo:
CONCLUSION:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is normal left ventricular wall thickness 
with a normal cavity size. There is mild regional left 
ventricular systolic dysfunction with hypokinesis of the distal 
inferior, septal and anterior walls and apex (see schematic) and 
preserved/normal contractility of the remaining segments. No 
left ventricular aneurysm is seen. Quantitative biplane
left ventricular ejection fraction is 48 % (normal 54-73%). Left 
ventricular cardiac index is low normal(2.0-2.5 L/min/m2). There 
is no resting left ventricular outflow tract gradient. Normal 
right ventricular cavity size with normal free wall motion. 
Tricuspid annular plane systolic excursion (TAPSE) is normal. 
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. The aortic arch
diameter is normal with a normal descending aorta diameter. 
There is no evidence for an aortic arch coarctation. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. There is a
centrally directed jet of mild [1+] aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is mild [1+] mitral regurgitation. The 
pulmonic valve leaflets are normal. The tricuspid valve leaflets 
appear structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.
IMPRESSION: Normal left ventricular cavity size with mild 
regional systolic dysfunction most consistent with single vessel 
coronary artery disease (mid to distal wraparound LAD 
distribution).
Mild aortic regurgitation with mildly thickened leaflets. Mild 
mitral regurgitation with normal valve morphology.

___ Coronary Angiogram
------------------
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 70% stenosis in the 
proximal segment. There is a 99% stenosis in the mid segment.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel. There is a 50% stenosis in the ostium.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a stent in the proximal and mid 
segments. There is a 50% in-stent restenosis in the proximal 
segment.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
Findings
• Normal left heart filling pressures.
• Two vessel coronary artery disease.
PA LAT ___:
.FINDINGS: 
 There are small bilateral pleural effusions as well as left 
basilar
atelectasis.  No pneumothorax.  The size of the cardiac 
silhouette is within
normal limits.  The patient is post CABG.
 IMPRESSION: Small bilateral pleural effusions and left lower 
lobe atelectasis.
 
Discharge Labs:
___ 04:45AM BLOOD WBC-4.6 RBC-2.88* Hgb-9.1* Hct-27.4* 
MCV-95 MCH-31.6 MCHC-33.2 RDW-12.9 RDWSD-44.7 Plt ___
___ 04:45AM BLOOD Glucose-103* UreaN-17 Creat-1.0 Na-143 
K-4.0 Cl-107 HCO3-25 AnGap-11
___ 04:45AM BLOOD Mg-1.9
___ 03:45PM BLOOD %HbA1c-5.2 eAG-103
 
Brief Hospital Course:
Mr. ___ was admitted under cardiology. Given findings of 
multi-vessel coronary artery disease, cardiac surgery was 
consulted and additional evaluation was performed. He remained 
pain free on medical therapy and was eventually cleared for 
surgery.

The patient was brought to the Operating Room on ___ where 
the patient underwent coronary artery bypass grafting by Dr. 
___ - see operative note for details.  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable. The patient remained in the 
intensive care unit for two days on Neosynephrine for 
hypotension. Chest tubes were discontinued without complication 
Once blood pressure normalized, the patient was transferred to 
the telemetry floor for further recovery. Beta blocker was 
initiated and the patient was gently diuresed toward the 
preoperative weight. Pacing wires were removed without 
complication once patient was tolerating beta blocker. The 
patient was evaluated by the Physical Therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 5 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged home with ___ services in good condition 
with appropriate follow up instructions.
 
Medications on Admission:
1. Ezetimibe 10 mg PO QPM 
2. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0 
4.  Metoprolol Tartrate 12.5 mg PO TID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
three times a day Disp #*60 Tablet Refills:*1 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
6.  Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
to be taken while on Lasix 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth once a day 
Disp #*5 Tablet Refills:*0 
7.  Ranitidine 150 mg PO DAILY Duration: 30 Days 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
8.  Senna 17.2 mg PO DAILY:PRN Constipation - First Line 
hold for loose stools  
9.  Aspirin EC 81 mg PO DAILY  
10.  Ezetimibe 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease
Dyslipidemia
Paroxysmal AF
Wolf ___ White Syndrome
History of pancreatitis 
History of kidney stones 

 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
No Edema

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___